US04424372
Zinc dust (39 g) was added to a mixture of 4-n-pentylbenzenesulfonyl chloride (27 g, 0.11 ml) in concentrated sulfuric acid (43 ml) and water (270 ml) at less than 0° C. Thereafter, stirring was continued at a temperature less than 0° C. for about one hour followed by refluxing for approximately three hours. The reaction mixture was cooled and then poured into ice water (350 ml) and the reaction product was extracted with ether (2×400 ml). The extract was washed with water and dried over anhydrous sodium sulfate. The solvent (ether) was evaporated and the reaction product was vacuum-distilled to yield 4-n-pentylbenzenethiol (14 g, 71%, boiling point 90°-94° C./0.6 mm).

reactant | 4-n-pentylbenzenesulfonyl chloride | 0.11 ml, 27 g | C(CCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C11H15ClO2S
solvent | sulfuric acid | 43 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 270 ml | O | H2O
catalyst | Zinc | 39 g | [Zn] | Zn
product | 4-n-pentylbenzenethiol | 14 g, 71% | C(CCCC)C1=CC=C(C=C1)S | C11H16S
